US08022205B2
From bis-(4-methoxy-benzyl)-[5-(2-morpholin-4-yl-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidin-4-yl)-pyrimidin-2-yl]-amine (81 mg) and 2-fluoro-5-bromopyridine (30 μl), in the same manner as Step B in Example 1-D-25, crude products of {5-[7-(5-bromo-pyridin-2-yl)-2-morpholin-4-yl-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidin-4-yl]-pyrimidin-2-yl}-bis-(4-methoxy-benzyl)-amine and {5-[7-(6-fluoro-pyridin-3-yl)-2-morpholin-4-yl-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidin-4-yl]-pyrimidin-2-yl}-bis-(4-methoxy-benzyl)-amine were obtained, and then for each products the PMB groups were removed according to Deprotection method 3, to obtain the desired compound (D-36) as a colorless powder (5 mg, 32%) and as a colorless powder (D-37: 7 mg, 63%).

reactant | {5-[7-(5-bromo-pyridin-2-yl)-2-morpholin-4-yl-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidin-4-yl]-pyrimidin-2-yl}-bis-(4-methoxy-benzyl)-amine | BrC=1C=CC(=NC1)N1CCC2=C1N=C(N=C2C=2C=NC(=NC2)N(CC2=CC=C(C=C2)OC)CC2=CC=C(C=C2)OC)N2CCOCC2 | C35H35BrN8O3
reactant | {5-[7-(6-fluoro-pyridin-3-yl)-2-morpholin-4-yl-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidin-4-yl]-pyrimidin-2-yl}-bis-(4-methoxy-benzyl)-amine | FC1=CC=C(C=N1)N1CCC2=C1N=C(N=C2C=2C=NC(=NC2)N(CC2=CC=C(C=C2)OC)CC2=CC=C(C=C2)OC)N2CCOCC2 | C35H35FN8O3
solvent | 2-fluoro-5-bromopyridine | 30 μl | FC1=NC=C(C=C1)Br | C5H3BrFN
product | bis-(4-methoxy-benzyl)-[5-(2-morpholin-4-yl-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidin-4-yl)-pyrimidin-2-yl]-amine | 81 mg | COC1=CC=C(CN(C2=NC=C(C=N2)C=2C3=C(N=C(N2)N2CCOCC2)NCC3)CC3=CC=C(C=C3)OC)C=C1 | C30H33N7O3
